US04216318
A solution of 5-(3-pyridylmethyl)-2-thiouracil (11.0 g), methyl iodide (7.1 g) and sodium hydroxide (4.2 g) in water (150 ml) and ethanol (150 ml) was stirred at 65° for 40 minutes, allowed to cool and acetic acid was added to pH5. The solution was partially evaporated, cooled and filtered to give 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone, m.p. 247°-9° (ex. ethanol-acetic acid).

reactant | 5-(3-pyridylmethyl)-2-thiouracil | 11.0 g | N1=CC(=CC=C1)CC=1C(NC(NC1)=S)=O | C10H9N3OS
reactant | methyl iodide | 7.1 g | CI | CH3I
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 150 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
